US05162326
1-[[2'-(N-methyltetrazol-5-yl)biphenyl-4-yl]methyl]-3-propyl-6-propyloxypyrimidine-2,4(1H,3H)-dione
A mixture of 3-propyl-6-propyloxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.1 g), methyl iodide (50 mg) and sodium bicarbonate (25 mg) in DMF (5 ml) was stirred at room temperature for 2 hours. The reaction mixture was concentrated to dryness and the residue was dissolved in CHCl3 -water. The chloroform layer was dried and evaporated in vacuo to give a syrup. The syrup was column-chromatographed on silica gel to give a colorless syrup (90 mg, 86%).

reactant | 3-propyl-6-propyloxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.1 g | C(CC)N1C(N(C(=CC1=O)OCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C24H26N6O3
reactant | methyl iodide | 50 mg | CI | CH3I
reactant | sodium bicarbonate | 25 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[[2'-(N-methyltetrazol-5-yl)biphenyl-4-yl]methyl]-3-propyl-6-propyloxypyrimidine-2,4(1H,3H)-dione | 90 mg, 86% | CN1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(N(C(C=C1OCCC)=O)CCC)=O | C25H28N6O3
